US06133277
A mixture of toluene (1000 ml) and ethanol (absolute, 520 ml) was stirred. Sodium borohydride (2.13 mol) was added at room temperature, under an inert atmosphere. The mixture was heated to 50° C. Intermediate (2) (2.14 mol) was added dropwise at 50° C. in a 90-minutes period (exothermic temperature rise of 15° C.; cooling required). The reaction mixture was stirred for 90 minutes at 50° C. Water (1500 ml) was added while stirring. Then, 2-propanone (100 ml) was added dropwise under slight cooling. The mixture was decomposed with HCl (180 ml). The organic layer was separated, dried, filtered and the solvent evaporated, yielding 295 g of (-)-(R)-3,4-dihydro-2H-1-benzopyran-2-methanol (interm. 3).

reactant | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 520 ml | C(C)O | C2H6O
reactant | Sodium borohydride | 2.13 mol | [BH4-].[Na+]
reactant | HCl | 180 ml | Cl | ClH
reactant | 2-propanone | 100 ml | CC(C)=O | C3H6O
solvent | Water | 1500 ml | O | H2O
product | (-)-(R)-3,4-dihydro-2H-1-benzopyran-2-methanol | 295 g | O1[C@H](CCC2=C1C=CC=C2)CO | C10H12O2
